US09382234B2
A 20 mL vial containing 3-((1-((benzyloxy)carbonyl)piperidin-4-yl)oxy)-5-chloro -2-methylbenzoic acid (35.0 mg, 0.087 mmol) was charged with 3-(aminomethyl)-2,6-dimethylpyridin-4(1H)-one hydrochloride (17.98 mg, 0.095 mmol), EDC (24.92 mg, 0.130 mmol), HOAt (20.04 mg, 0.130 mmol), N,N-dimethylformamide (1 mL), N-methylmorpholine (0.143 mL, 1.300 mmol) and a magnetic stir bar. The vial was capped and the reaction was stirred at room temperature for 3 days, at which time it was dripped into a stirred solution of saturated NaHCO3 (20 mL) and water (5 mL). The suspension was stirred at room temperature for 20 min and the solid was collected via vacuum filtration and dried under high vacuum. Purification of the solid by reverse phase HPLC (Column: Phenomenex Gemini-NX axia, 30×100, 5μ, C18. Eluent:10-80% acetonitrile/0.1% formic acid in water, 7 min gradient) gave benzyl 4-(5-chloro-3-(((2,6-dimethyl-4-oxo-1,4-dihydropyridin-3-yl)methyl)carbamoyl)-2-methylphenoxy)piperidine-1-carboxylate (30 mg, 0.056 mmol, 64.3% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 11.00 (s, 1H), 8.21 (t, J=5.05 Hz, 1H), 7.26-7.44 (m, 5H), 7.15 (d, J=2.02 Hz, 1H), 6.81 (d, J=2.02 Hz, 1H), 5.87 (s, 1H), 5.09 (s, 2H), 4.70 (br. s., 1H), 4.19 (d, J=5.05 Hz, 2H), 3.63 (br. s., 2H), 3.36-3.45 (m, 2H), 2.31 (s, 3H), 2.15 (s, 3H), 2.06 (s, 3H), 1.90 (d, J=12.88 Hz, 2H), 1.49-1.67 (m, 2H). MS(ES) [M+H]+ 538.3.

reactant | 3-((1-((benzyloxy)carbonyl)piperidin-4-yl)oxy)-5-chloro -2-methylbenzoic acid | 0.087 mmol, 35.0 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC=1C(=C(C(=O)O)C=C(C1)Cl)C | C21H22ClNO5
reactant | 3-(aminomethyl)-2,6-dimethylpyridin-4(1H)-one hydrochloride | 0.095 mmol, 17.98 mg | Cl.NCC1=C(NC(=CC1=O)C)C
reactant | EDC | 0.130 mmol, 24.92 mg
reactant | HOAt | 0.130 mmol, 20.04 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | N-methylmorpholine | 1.300 mmol, 0.143 mL | CN1CCOCC1 | C5H11NO
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | water | 5 mL | O | H2O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | benzyl 4-(5-chloro-3-(((2,6-dimethyl-4-oxo-1,4-dihydropyridin-3-yl)methyl)carbamoyl)-2-methylphenoxy)piperidine-1-carboxylate | 0.056 mmol, 30 mg, 64.3% yield | ClC=1C=C(C(=C(OC2CCN(CC2)C(=O)OCC2=CC=CC=C2)C1)C)C(NCC1=C(NC(=CC1=O)C)C)=O | C29H32ClN3O5
